US07700593B2
Step 2: Synthesis of 3-(3-(2-Chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-4-methylbenzoic acid
A mixture of 7-chloro-3-(2-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridine (1.77 g, 6.7 mmol), 3-borono-4-methylbenzoic acid (1.57 g, 8.7 mmol), Pd(PPh3)2Cl2 (0.329 g, 0.46 mmol, Strem), and sodium carbonate (2.13 g, 20 mmol, JT Baker) in DME:EtOH:H2O=7:2:3 (8 ml) was heated to 80° C. for 8 h. The mixture was cooled to room temperature, diluted with MeOH and filtered through Celite. The filtrate was concentrated to yield the title compound as a brown solid. MS (ESI, pos. ion) m/z: 364.0 (M+1).

reactant | 7-chloro-3-(2-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridine | 6.7 mmol, 1.77 g | ClC1=CC=2N(C=C1)C(=NN2)C2=C(C=CC=C2)Cl | C12H7Cl2N3
reactant | 3-borono-4-methylbenzoic acid | 8.7 mmol, 1.57 g | B(O)(O)C=1C=C(C(=O)O)C=CC1C | C8H9BO4
reactant | sodium carbonate | 20 mmol, 2.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOH | CCO | C2H6O
solvent | DME | COCCOC | C4H10O2
solvent | MeOH | CO | CH4O
catalyst | Pd(PPh3)2Cl2 | 0.46 mmol, 0.329 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | O | H2O
product | 3-(3-(2-Chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-4-methylbenzoic acid | ClC1=C(C=CC=C1)C1=NN=C2N1C=CC(=C2)C=2C=C(C(=O)O)C=CC2C | C20H14ClN3O2
